US06528525B1
(h) Ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(2-phenoxyethyl)propionate
Sodium azide (0.29 g) was added to a solution of ethyl 3-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-(2-phenoxyethyl)propionate, which is the product of Reference example 3(g), in dimethylformamide (8 ml). The mixture was stirred at 70° C. for 2 hours. At the end of this time the reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and dried over anhydrous magnesium sulfate and then concentrated to afford the desired compound (546 mg) as a syrup.

reactant | Sodium azide | 0.29 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl 3-[4-(2-methanesulfonyloxyethoxy)phenyl]-2-(2-phenoxyethyl)propionate | CS(=O)(=O)OCCOC1=CC=C(C=C1)CC(C(=O)OCC)CCOC1=CC=CC=C1 | C22H28O7S
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | Ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(2-phenoxyethyl)propionate | 546 mg | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)CCOC1=CC=CC=C1 | C21H25N3O4
